US08859541B2
N-[5-(3,5-dimethylpyridin-4-yl)-6-(2-quinolin-6-ylethynyl)pyridin-2-yl]-2-(methylamino)propanamide
A mixture of tert-butyl-N-[1-[[5-(3,5-dimethylpyridin-4-yl)-6-(2-quinolin-6-ylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]-N-methylcarbamate G1a (28 mg, 0.05 mmol) and DCM:TFA (8:2, 10 ml) is stirred at RT for 15 minutes. The mixture is diluted with toluene (10 ml) and concentrated in vacuo. The product is purified by RP HPLC. Yield: 16 mg (70%). HPLC-MS: M+H=436; tR=1.09 min (*Method—1).

reactant | tert-butyl-N-[1-[[5-(3,5-dimethylpyridin-4-yl)-6-(2-quinolin-6-ylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]-N-methylcarbamate | C(C)(C)(C)OC(N(C)C(C(=O)NC1=NC(=C(C=C1)C1=C(C=NC=C1C)C)C#CC=1C=C2C=CC=NC2=CC1)C)=O | C32H33N5O3
reactant | DCM TFA | 10 ml | C(Cl)Cl.C(=O)(C(F)(F)F)O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | N-[5-(3,5-dimethylpyridin-4-yl)-6-(2-quinolin-6-ylethynyl)pyridin-2-yl]-2-(methylamino)propanamide | CC=1C=NC=C(C1C=1C=CC(=NC1C#CC=1C=C2C=CC=NC2=CC1)NC(C(C)NC)=O)C | C27H25N5O
